US06479424B1
A 1 L three-neck round bottom flask equipped with a condenser, mechanical stirrer, nitrogen inlet and a thermometer was charged with 5,6-dimethyl-1-indanone (21.65 g, 0.133 mol) and ethanol (450 mL). The mixture was heated with stirring to 45° C. and sodium borohydride (15.2 g, 0.40 mol) was added incrementally over 10 minutes. The reaction mixture was then heated at reflux for 18 hours, cooled, quenched in 5% HCl (1 L ice-water), and extracted with diethyl ether (500 mL). The organic phase was separated, washed with water (3×500 mL), dried over anhydrous magnesium sulfate, and evaporated to dryness under reduced pressure to yield 5,6-dimethyl-1-indanol (23.0 g) as an amber oil. 1HNMR (CD2Cl2, 500 MHz) δ7.12 (s, 1H); 7.01 (s, 1H); 4.81 (m, 1H); 2.95 (m, 1H); 2.72 (m, 1H); 2.28 (m, 1H); 2,26 (s, 3H); 2.23 (s, 3H).

reactant | 5,6-dimethyl-1-indanone | 0.133 mol, 21.65 g | CC=1C=C2CCC(C2=CC1C)=O | C11H12O
reactant | sodium borohydride | 0.40 mol, 15.2 g | [BH4-].[Na+]
solvent | ethanol | 450 mL | C(C)O | C2H6O
product | 5,6-dimethyl-1-indanol | 23.0 g | CC=1C=C2CCC(C2=CC1C)O | C11H14O
